US04125729
Ethyl[p-(p-N-octylaminophenoxy)phenyl]acetate
A slurry of 3.45 g of anhydrous potassium carbonate in 50 ml of hexamethylphosphoramide (HMPA) containing 6.8 g of ethyl[p-(p-aminophenoxy)phenyl]acetate is heated to 50° C. A solution of 6 g of n-octyliodide in 10 ml of HMPA is added over 2 hours. The heating is continued for 24 hours. The mixture is diluted with 100 ml of H2O and extracted with two 100 ml portions of ether. The combined extracts are washed with two 100 ml portions of H2O, 100 ml of saturated brine, and dried over MgSO4. Evaporation of the solvent at reduced pressure affords a brown liquid, which yields, after silica gel chromatography (benzene, then CHCl3) and bulb-to-bulb distillation of the CHCl3 elutate, a pale yellow oil, b.p. 194° at 0.05 mm.

reactant | potassium carbonate | 3.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl[p-(p-aminophenoxy)phenyl]acetate | 6.8 g | C(C)OC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)N)=O | C16H17NO3
reactant | n-octyliodide | 6 g | C(CCCCCCC)I | C8H17I
solvent | hexamethylphosphoramide | 50 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | HMPA | 10 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | H2O | 100 ml | O | H2O
product | Ethyl[p-(p-N-octylaminophenoxy)phenyl]acetate | C(C)OC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)NCCCCCCCC)=O | C24H33NO3
